US04588813
The reaction of 2,3-dimethylpyrazine and freshly distilled propionaldehyde is carried out as described in Example I on the same molar scale. Preparative thick layer chromatography (2000μ silica gel GF, developed in 5% acetone/hexane) of the crude reaction product gives a 25% yield of 1-(2,3-dimethyl-5-pyrazinyl)-1-propanone.

reactant | 2,3-dimethylpyrazine | CC1=NC=CN=C1C | C6H8N2
reactant | propionaldehyde | C(CC)=O | C3H6O
solvent | acetone hexane | CC(=O)C.CCCCCC
product | 1-(2,3-dimethyl-5-pyrazinyl)-1-propanone | 25% yield | CC1=NC=C(N=C1C)C(CC)=O | C9H12N2O
